US04904654
Methyl 2-t-butyldimethylsilyloxyisobutyrate
To a stirred, chilled (0° C.) solution of methyl-2-hydroxyisobutyrate (20.0 g) in dry CH2Cl2 was added TBDMS triflate (45 g) dropwise, followed by anhydrous 2,6-lutidine (19.3 g). The mixture was stirred at 0° C. for 1 hour before 150 ml water was added. Stirring was continued for a further hour, the organic layer separated, dried (Na2SO4), and concentrated to dryness at reduced pressure. The crude product was purified by dry flash silica gel chromatography eluting with CH2Cl2 to yield the title compound as a colorless oil (30.9 g). δH (360 MHz, CDCl3) 0.07 (6H, s, Si(CH3)2), 0.87 (9H, s, C(CH3)3), 1.41 (6H, s, C(CH3)2), 3.69 (3H, s, CH3O). m/z 233 (M+1)+, 100%, CI+) 217 (30), 174 (40), 164 (45), 106 (30).

reactant | methyl-2-hydroxyisobutyrate | 20.0 g | COC(C(C)(C)O)=O | C5H10O3
reactant | TBDMS triflate | 45 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | 2,6-lutidine | 19.3 g | N1=C(C=CC=C1C)C | C7H9N
reactant | water | 150 ml | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Methyl 2-t-butyldimethylsilyloxyisobutyrate | 30.9 g | [Si](C)(C)(C(C)(C)C)OC(C(=O)OC)(C)C | C11H24O3Si
